US06498180B1
To a solution of ethyl (1SR,6SR,7SR)-2-oxo-3-oxa-bicyclo[4.1.0]heptane-7-carboxylate (15.2 g, 82.8 mmol) in anhydrous tetrahydrofuran (300 mL) at −78° C. and under argon, a 1.5 M solution of diisobutylaluminium hydride in toluene (82.8 mL, 124.2 mmol) in anhydrous tetrahydrofuran (150 mL) at −78° C. under an argon atmosphere was added dropwise via cannula. The solution was stirred for six hours at this temperature and then diluted with ethyl acetate (200 mL) and quenched with a saturated aqueous solution of sodium tartrate (200 mL). The resulting mixture was stirred at room temperature overnight. The organic layer was separated, dried over magnesium sulfate, filtrated and evaporated in vacuo. The residue was purified by column chromatography using ethyl acetate and hexane 1:2 as eluent to afford 12.3 g (85% yield) of (2RS) and (2SR) ethyl (1SR,6RS,7SR)-2-hydroxy-3-oxa-bicyclo[4.1.0]heptane-7-carboxylate as a colorless oil, which exist with their corresponding open hydroxyaldehyde forms.

reactant | ethyl (1SR,6SR,7SR)-2-oxo-3-oxa-bicyclo[4.1.0]heptane-7-carboxylate | 82.8 mmol, 15.2 g | O=C1C2C(C2CCO1)C(=O)OCC | C9H12O4
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 124.2 mmol, 82.8 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (2SR) ethyl (1SR,6RS,7SR)-2-hydroxy-3-oxa-bicyclo[4.1.0]heptane-7-carboxylate | 85% yield | OC1C2C(C2CCO1)C(=O)OCC | C9H14O4
